Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]([C:4](=[C:3]=[C:2]([H:8])[H:9])[C:5](=[O:6])[H:10])[H:7]>>[O:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],67.297222439549
[N:1](=[C:2](/[C:5]([C:6]#[N:7])([H:12])[H:13])[H:9])\[H:8].[O:3]=[C:4]([H:10])[H:11]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],67.87734522584901
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[O:4][C:5]([H:13])([H:14])[O:6]1)([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[O:4]1)([H:7])([H:8])[H:9].[C:5](=[O:6])([H:13])[H:14],63.9521034006644
[O:1]=[C:2]=[C:5]=[N:6][C:4](=[C:3])[H:7]>>[O:1]=[C:2]([C:3]#[C:4][H:7])[C:5]#[N:6],19.26350239851358
[C-:3](=[O+:4][C:5](=[O:6])[N:7]([H:15])[H:16])[H:14].[C:1]([C:2]([H:11])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],5.985458334023306
[O:1]=[C:2]=[C:5]=[N:6][N+:4]#[C-:3]>>[O:1]=[C:2]([C:3]#[N:4])[C:5]#[N:6],25.652615086737896
[C:1]([N:5]=[C:4]=[C:2]=[O:3])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[O:3])[C:4]#[N:5])([H:6])([H:7])[H:8],47.4679577532451
[C:1]([C:2](=[O:3])[O:5][C:4](=[C:6]([H:10])[H:12])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9],66.25373436391223
[C:1](=[C:2]=[O:3])([H:6])[H:8].[C:4]=[N:5][H:7]>>[C:1]([C:2](=[O:3])[C:4]#[N:5])([H:6])([H:7])[H:8],31.28741261467721
[N:1](=[N:5]/[N:4]1[C:2]([H:7])=[C:3]1[H:8])\[H:6]>>[n:1]1([H:6])[c:2]([H:7])[c:3]([H:8])[n:4][n:5]1,5.293571089460315
[O:1]=[C:2]=[C:3]([N:4]1[C:5]([H:9])([H:10])[C:6]1([H:8])[H:11])[H:7]>>[O:1]=[C:2]1[C:3]([H:7])([H:8])[N:4]2[C:5]([H:9])([H:10])[C@@:6]12[H:11],65.69201188860447
[C:1]([C:2]([C-:3]([C:5]([C+:6]([O:7][H:19])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:4]([H:14])[H:18]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],5.050110947339803
[N:1](=[C:2]=[C:7]([N:4]([N:3])[H:10])[C:6](=[O:5])[H:9])[H:8]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],20.808487484374695
[C:1]([N:2]([C@:3]1([C:7]([H:15])([H:16])[H:17])[O:4][N:5]1[C:6]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10],37.1658238117563
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15].[H:13][H:16]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]([O:6][H:16])([H:14])[H:15])([H:7])([H:8])[H:9],53.5643900196919
[C:1]([C@@:2]1([C:6]#[N:7])[C:4]([H:14])([H:15])[O:5]1)([H:8])([H:9])[H:10].[C:3]([H:11])([H:12])([H:13])[H:16]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10],90.62160479379041
[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[O:1](/[C:2](=[C:3](\[C:4]([H:8])([H:10])[H:11])[H:9])[C:5]#[N:6])[H:7],66.2029411963203
[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6]>>[N:1]#[C:2][O:5][C:4](=[C:3]=[N+:7]=[N-:6])[H:8],60.88503207839401
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([N:4]([H:13])[H:14])[N+:6]#[C-:5])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([N:4]([H:13])[H:14])[C:5]#[N:6])([H:7])([H:8])[H:9],26.654520262163498
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9]>>[C:1]([C:2]1=[C:4]([C:5]([H:13])([H:14])[H:15])[C:3]1([H:11])[H:12])([H:7])([H:8])[H:9].[C:6]([H:10])([H:16])([H:17])[H:18],113.113548052074
[C:1](=[O:2])([H:6])[H:7].[C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],76.93206098476664
[O:1]([C:2]([N+:5]1([H:13])[C:3](=[C:6]([O-:7])[H:14])[C:4]1([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8],41.619392263553294
[C:1]1([H:8])([H:9])[N:2]=[C:3]([N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[O:4]1.[H:10][H:11]>>[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10],43.96684115525457
[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6]>>[N:1]1=[O+:5][C:4]([H:8])=[C:3]=[C:2]1[N:7]=[N-:6],129.456455518875
[C:1]([O:2][C:3]([C:4]#[N:5])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:4]#[N:5])([H:6])([H:7])[H:8].[O:2]=[C:3]([H:9])[H:10],85.9647798472903
[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1]([C:2](=[O+:3][C:4](=[C:5]([O-:6])[H:11])[H:9])[H:8])([H:7])[H:10],34.037073661638104
[C:1]([H:7])([H:8])([H:9])[H:11].[C:2](=[O:3])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],78.58592964168082
[O:1]([C:2]([N:6]=[C:5]=[C:3]=[O:4])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:8])[H:9])[H:7],28.791128574067592
